US04550107
5-[[2-[[(Cyclohexyl)(methyl)amino]methyl]-1-piperidinyl]-acetyl]-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one
The title compound is prepared analogously to Example 2 from 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 2-[[cyclohexyl)(methyl)amino]methyl]piperidine to give colorless crystals, mp. 146°-148° C. (acetonitrile activated charcoal).

reactant | 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11ClN2O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-[[2-[[(Cyclohexyl)(methyl)amino]methyl]-1-piperidinyl]-acetyl]-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | C1(CCCCC1)N(C)CC1N(CCCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C28H36N4O2
